US03974278
7.4 g of 2-trifluoromethylbenzaldehyde, 17.4 g of γ-ethoxyacetoacetic acid ethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 80 ml of ethanol are heated under reflux overnight, the mixture is cooled and 2-ethoxymethyl-6-methyl-4-(2'-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in the form of white-yellow crystals of melting point 112°C, in a yield of 55% of theory.

reactant | 2-trifluoromethylbenzaldehyde | 7.4 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | γ-ethoxyacetoacetic acid ethyl ester | 17.4 g | C(C)OC(CC(=O)COCC)=O | C8H14O4
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-ethoxymethyl-6-methyl-4-(2'-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield of 55% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C)COCC | C22H26F3NO5
